US07737145B2
A mixture of hexahydro-1H-1,4-diazepine (3.44 g, 34.4 mmol) and 1-(chloromethyl)-4-(benzyloxy)benzene (2.0 g, 8.6 mmol) was treated with triethylamine (4.8 ml, 34.4 mmol) in 100 mL tetrahydrofuran and heated at reflux for 4 h. After cooling, the mixture was treated with saturated sodium bicarbonate solution. The mixture was extracted with ethyl acetate. The combined organic layer was washed with brine, dried over sodium sulfate, and concentrated under reduced pressure. Flash chromatography gave 2.0 g of hexahydro-1-[[4-(phenylmethoxy)phenyl]methyl]-1H-1,4-diazepine; 1H NMR (300 MHz, CDCl3) δ 7.44 (d, 2H), 7.39 (dd, 2H), 7.32 (dd, 1H), 7.26 (d, 2H), 6.93 (d, 2H), 5.05 (s, 2H), 3.60 (s, 2H), 2.96 (m, 2H), 2.89 (m, 2H), 2.68 (m, 2H), 2.65 (m, 2H), 1.75 (m, 2H) ppm.

reactant | hexahydro-1H-1,4-diazepine | 34.4 mmol, 3.44 g | N1CCNCCC1 | C5H12N2
reactant | 1-(chloromethyl)-4-(benzyloxy)benzene | 8.6 mmol, 2.0 g | ClCC1=CC=C(C=C1)OCC1=CC=CC=C1 | C14H13ClO
reactant | triethylamine | 34.4 mmol, 4.8 ml | C(C)N(CC)CC | C6H15N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | hexahydro-1-[[4-(phenylmethoxy)phenyl]methyl]-1H-1,4-diazepine | 2.0 g | C1(=CC=CC=C1)COC1=CC=C(C=C1)CN1CCNCCC1 | C19H24N2O
